US07994185B2
Step A: 1,1-dimethylethyl 4-(5-(2-amino-4-pyrimidinyl)-4-{2-fluoro-3-[(3-furanylsulfonyl)amino]phenyl}-1,3-thiazol-2-yl)-1-piperidinecarboxylate
A suspension of 1,1-dimethylethyl 4-(5-(2-chloro-4-pyrimidinyl)-4-{2-fluoro-3-[(3-furanylsulfonyl)amino]phenyl}-1,3-thiazol-2-yl)-1-piperidinecarboxylate (53 mg, 0.085 mmol) in ammonium hydroxide solution (28%, 2 mL, 51.4 mmol) sealed in a 5-mL microwave tube was heated at 90° C. for 3 h under the microwave conditions. The mixture was concentrated and dried under high vacuum to give 49 mg of the title compound. MS (ESI): 501.1 [M+1]+.

reactant | 1,1-dimethylethyl 4-(5-(2-chloro-4-pyrimidinyl)-4-{2-fluoro-3-[(3-furanylsulfonyl)amino]phenyl}-1,3-thiazol-2-yl)-1-piperidinecarboxylate | 0.085 mmol, 53 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)C1CCN(CC1)C(=O)OC(C)(C)C)C1=C(C(=CC=C1)NS(=O)(=O)C1=COC=C1)F | C27H27ClFN5O5S2
reactant | ammonium hydroxide | 51.4 mmol, 2 mL | [OH-].[NH4+]
product | 1,1-dimethylethyl 4-(5-(2-amino-4-pyrimidinyl)-4-{2-fluoro-3-[(3-furanylsulfonyl)amino]phenyl}-1,3-thiazol-2-yl)-1-piperidinecarboxylate | 49 mg | NC1=NC=CC(=N1)C1=C(N=C(S1)C1CCN(CC1)C(=O)OC(C)(C)C)C1=C(C(=CC=C1)NS(=O)(=O)C1=COC=C1)F | C27H29FN6O5S2
